US04053606
A mixture of 1 g. of 2-methyl-3-hydroxy-4-benzoylthiomethyl-5-vinylpyridine, 10 ml. of tetrahydrofuran, and 10 ml. of 2.5 N aqueous sodium hydroxide was aged at room temperature overnight. The solution was acidified to about pH 6 with hydrochloric acid and then adjusted to pH 7.5 with solid sodium bicarbonate. The mixture was extracted with 3 × 100 ml. of ethyl acetate: isopropanol (9:1 v/v). The extract was dried over magnesium sulfate and concentrated to give 2-methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine.

reactant | 2-methyl-3-hydroxy-4-benzoylthiomethyl-5-vinylpyridine | CC1=NC=C(C(=C1O)CSC(C1=CC=CC=C1)=O)C=C | C16H15NO2S
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine | CC1=NC=C(C(=C1O)CS)C=C | C9H11NOS
